US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-ol (4.0 g) is dissolved in 80 ml of dry pyridine at 0° C. 3.04 g of p-toluenesulphonyl chloride is added and the mixture is stirred at 5° C. for 20 hours and at room temperature for 5 hours. After aqueous work-up and crystallisation from methanol, 3.01 g of 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-24-p-toluenesulphonyloxy-5α-chola-8,14-diene is obtained.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-ol | 4.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCO)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H56O2Si
reactant | p-toluenesulphonyl chloride | 3.04 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-24-p-toluenesulphonyloxy-5α-chola-8,14-diene | 3.01 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCOS(=O)(=O)C5=CC=C(C=C5)C)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C39H62O4SSi
